US06630469B2
A mixture of 4-fluorophenol (22.4 g, 200 mmol), chloroacetonitrile (17.1 g, 220 mmol) and excess powdered potassium carbonate was refluxed for 7 h then the mixture was concentrated under reduced pressure. The residue was mixed with H2O and was extracted with Et2O. The combined organic layers were dried, filtered and concentrated under reduced pressure. The residue was Kugelrohr distilled to provide 2-(4-Fluorophenoxy)acetonitrile (25 g, 84%). The 2-(4-Fluorophenoxy)acetonitrile (25 g, 185 mmol) was reduced with alane [generated from lithium aluminum hydride (19.6 g, 516 mmol) and sulfuric acid (25.3 g, 258 mmol) according to the procedure in Example 1]. The crude product was purified by Kugelrohr distillation to provide the titled compound (12 g).

reactant | 4-fluorophenol | 200 mmol, 22.4 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | chloroacetonitrile | 220 mmol, 17.1 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-(4-Fluorophenoxy)acetonitrile | 25 g, 84% | FC1=CC=C(OCC#N)C=C1 | C8H6FNO
